US04188325
A solution of 3-methylthio-5-trifluoromethyloxindole (1.40 g, 0.0057 mol) and N-chlorosuccinimide (800 mg, 0.006 mol) in 100 ml of carbon tetrachloride was stirred at room temperature for 1 hour. The precipitated succinimide was removed by filtration, and the filtrate was evaporated to give 3-chloro-3-methylthio-5-trifluoromethyl oxindole as a yellow solid which was dissolved in 30 ml of tetrahydrofuran and added to a vigorously stirred slurry of red mercuric oxide (1.30 g, 5.8 mmol) and boron trifluoride etherate (860 mg, 5.8 mmol) in 100 ml of 20 percent aqueous tetrahydrofuran. The resulting mixture was stirred for 2 hours at room temperature, filtered through a pad of Celite and the filtrate was extracted with four 100-ml portions of methylene chloride. The methylene chloride extracts were dried over anhydrous magnesium sulfate, filtered, and evaporated to give a residue which was chromatographed on silica gel. Elution with methylene chloride gave 5-trifluoromethylisatin as yellow needles (860 mg, 73%), mp 191°-193° (recrystallized from benzene); ir (KBr) 3200 (NH), 1750 (C=O), 1710 cm-1 (C=O); nmr (DMSO-d6), π-1.20 (b s, 1H, NH), 2.15 (d, 1H, H6), 2.30 (s, 1H, H4), 2.90 (d, 1H, J6,7 =8 Hz, H7); mass spectrum m/e obs. 215.0196 (calc. 215.0194).

reactant | 3-methylthio-5-trifluoromethyloxindole | 0.0057 mol, 1.40 g | CSC1C(NC2=CC=C(C=C12)C(F)(F)F)=O | C10H8F3NOS
reactant | N-chlorosuccinimide | 0.006 mol, 800 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-3-methylthio-5-trifluoromethyl oxindole | ClC1(C(NC2=CC=C(C=C12)C(F)(F)F)=O)SC | C10H7ClF3NOS
